US05140026
4-[N-[2-(4-Morpholinyl)ethyl]-S-(3-phenoxypropyl)sulfonimidoyl]benzenamine
A solution of S-(4-nitrophenyl)-S-(3-phenoxypropyl)-N-[2-(4-morpholinyl)ethyl]sulfoximine in ethanol is treated with 5% palladium on carbon catalyst and subjected to hydrogenation on a Parr apparatus. When hydrogen uptake ceases, the catalyst is removed by filtration and the filtrate is concentrated to obtain the title compound.

reactant | S-(4-nitrophenyl)-S-(3-phenoxypropyl)-N-[2-(4-morpholinyl)ethyl]sulfoximine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=NCCN1CCOCC1)CCCOC1=CC=CC=C1 | C21H27N3O5S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-[N-[2-(4-Morpholinyl)ethyl]-S-(3-phenoxypropyl)sulfonimidoyl]benzenamine | N1(CCOCC1)CCN=S(=O)(CCCOC1=CC=CC=C1)C1=CC=C(C=C1)N | C21H29N3O3S
